US08471027B2
A solution of 3-bromomethyl-7-chloro-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester (550 mg, 1.35 mmol), methyl-2-hydroxyisonicotinate (290 mg, 1.89 mmol) and potassium carbonate (280 mg, 2.03 mmol) in N,N-dimethylformamide (15 mL) was stirred at 25° C. overnight. At this time, the reaction was concentrated in vacuo. Flash chromatography (ISCO column, 40% ethyl acetate/hexanes) afforded 7-chloro-3-(4-methoxycarbonyl-2-oxo-2H-pyridin-1-ylmethyl)-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester (300 mg, 46%) as a white solid. MS m/e calcd for C25H19ClN2O6 [(M+H)+] 479.0. Found 479.0.

reactant | 3-bromomethyl-7-chloro-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester | 1.35 mmol, 550 mg | COC(=O)C=1N(C2=CC(=CC=C2C(C1CBr)=O)Cl)C1=CC=CC=C1 | C18H13BrClNO3
reactant | methyl-2-hydroxyisonicotinate | 1.89 mmol, 290 mg | COC(C1=CC(=NC=C1)O)=O | C7H7NO3
reactant | potassium carbonate | 2.03 mmol, 280 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 7-chloro-3-(4-methoxycarbonyl-2-oxo-2H-pyridin-1-ylmethyl)-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester | 300 mg, 46% | COC(=O)C=1N(C2=CC(=CC=C2C(C1CN1C(C=C(C=C1)C(=O)OC)=O)=O)Cl)C1=CC=CC=C1 | C25H19ClN2O6
